Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia, AMS
 
Major Surgical or Invasive Procedure:
Intubated ___
R pheresis line ___
Pheresis ___
 
History of Present Illness:
___ male with history of stage IIA breast cancer 
___ left mastectomy and currently on
Tamoxifen and relapse of AML post allogeneic RIC MRD (sister) 
stem cell transplant (Day 0: ___ for intermediate risk AML 
in CR1 after being in remission for ___ years. He was re-induced 
with MEC upon relapse (___) and rcd DLI from same 
donor (sister) on ___ after achieving remission 
subsequently found to have relapse post-DLI with 12% myeloblasts 
on ___ and now s/p 10 days decitabine (___) 
without response and increasing WBC/blasts who presented with 
hypoxia, dyspnea on exertion, and diffuse bone pain.

He reported ___ days of worsening pain in multiple areas of his 
body, predominantly on the left side, but the pain had been 
rotating. He reported shortness of breath with exertion but no 
dyspnea at rest. His ___ came to the house yesterday and checked 
his vitals and found O2 sat to be in the low ___ while at rest. 
He called his oncologist who recommended coming to the ___ ED. 


He also noted one episode of non-bloody emesis yesterday. He 
denied
any chest pain other than the rib pain. He denied fever, cough,
abdominal pain, and diarrhea. He did note decrease in urinary
frequency and darkening or urine color. He denied any sick
contacts.

On arrival to the ED, initial vitals were 98.2 99 98/60 23 78%
RA. Labs were notable for WBC 44.0 (PMNs 2%, lymphs 4%, blasts
86%), H/H 10.8/32.4, Plt 30, Na 130, BUN/Cr ___, ALT 55, AST
94, UA with moderate blood, lactate 1.6, and influenza PCR
negative. CXR and CTA chest were negative for PE but did report
note new small bilateral pleural effusions and distended
stomach/esophagus. Patient was given dilaudid 0.5mg IV and 1L 
NS.
Prior to transfer vitals were 98.8 101 ___ 94% 4L.

On the floor he was started on broad coverage with vanc/cefepime 
to treat possible bacterial pneumonia as well as voriconazole to 
cover for aspergillus and high dose Bactrim to cover for 
possible PCP. He was also empirically diuresed with 10mg IV 
Lasix with 1L of urine output but no significant improvement in 
dyspnea. He was noted to be intermittently confused. He also 
spiked a fever to 100.3. He had a persistent oxygen requirement 
of ___ with sats in the low to mid ___. He was eventually 
placed on a non-rebreather, reportedly more for comfort. Oxygen 
saturations were 100% on non-rebreather.  Due to concern for 
leukostasis given his hypoxia and altered mental status he was 
transferred to the FICU for initiation of pheresis.
 
On arrival to the MICU, his sats were 95-96% on non-rebreather. 
He reported total body pain as well as some shortness of breath. 


 
Past Medical History:
Oncologic History:
He was initially diagnosed with AML intermediate risk on
___. He was enrolled on clinical trial protocol
number ___. He rcd 7 plus 3 and once  cycle of HiDAC
consolidation. Following CR1, he proceeded to matched sibling 
RIC
allogeneic stem cell transplant with Flu/Bu on ___.

He was also diagnosed with male breast ___. He is 
s/p
left mastectomy and excisional sentinal LN ___. 
Final
pathology demonstrated a 2.0 cm grade 2 invasive ductal 
carcinoma
with low-grade DCIS.  No LVI or EIC was seen. Surgical margins
were 3 mm or greater. One sentinel node was negative. This was
ER/PR positive and HER-2/neu negative. Final stage: Stage IIA
carcinoma left breast. Followed by Dr ___. The Recurrence
Score makes clear that if he were to take ___ years cof Tamoxifen
the recurrence risk would be very small, i.e., 5%. and hence
Tamoxifen recommended. Started Tamoxifen on ___.

- ___: Admitted to the hospital for elective
bronchoscopy for diffuse pulmonary opacities b/l predominantly 
in
the lower lobes. Pt was SOB after playing tennis for 45 minutes
which led to the CT scan and bronchoscopy. All cultures 
including
pathology were unremarkable. Pt was started on Vfend 350mg po 
bid
in hospital for presumed fungal infection which was decreased.
- ___: Diagnosed with COP based on Chest CT and PFT's 
likely
sequele of a viral infection. Started on macrolide therapy with
Clarithromycin and Singulair given clinical stability and lack 
of
hypoxia. CT chest 6 weeks later on ___ did not show 
improvement.
Repeat PFT's on ___ showed mild to mod reduced DLCO in the
64% range c.w 76% prior to transplant. Given stability of
clinical symptoms it was decided to watch closely and not
intervene.
- ___: Worsening SOB. CT chest and PFT's suggestive of
worsening COP and DLCO. Hence started on PSE 40mg/day on 
___
tapered to 30mg on ___, 20mg on ___ and 10mg on ___ given
steady improvement and eventually weaned off. 
- ___: Tacrolimus was stopped.
- ___: Diagnosed with relapse of AML. FLT3 D835H TKD 
mutation
identified. Re-induced with MEC. Peripheral blood Lineage
specific chimerism demonstrated 97% donor CD3 cells and BM
aspirate demonstrated 1.5% donor cells by FISH. However lineage
specific chimerism demonstrated > 95% donor CD3s in peripheral
blood.
- ___: BM aspirate/biopsy repeated with recovery of counts
post-re-induction with MEC. No morphologic evidence of leukemia
seen. No e.o FLT3 TKD D___ mutation identified. Lineage 
specific
chimerism on peripheral blood upon count recovery and FISH on BM
aspirate demonstrated full donor chimerism.
- ___: After extensive discussion with family and ___ team,
plan made to proceed with DLI from same donor i.e his sister. Pt
received DLI=1X10^7/kg.
- ___: Found to have drop in plt count to 87K along with 
viral
infection.
- ___: Ct chest demonstrated atypical viral infection
associated changes. Beta glucan/Galactomannan were negative.
Viral swab neg for Flu.
- ___: Peripheral blood flow cytometry demonstrated 12% blasts.

PAST MEDICAL HISTORY:
- Male Breast Cancer s/p Mastectomy (___)
- Aspergillosis (___)
- Prostatitis (___) 
- Seizure vs. Syncope ___ all negative
- Lyme Disease (___)

 
Social History:
___
Family History:
Mr. ___ has one brother with history of stroke. His father 
died of lung cancer at age ___. His mother died at age ___.

 
Physical Exam:
ICU TRANSFER EXAM:

GENERAL:  ill appearing
HEENT: AT/NC
NECK: nontender supple neck, no LAD, no JVD 
CARDIAC: tachycardic, regular, S1/S2, no MRG
LUNG: some accessory muscle use
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: No gross motor/coordination abnormalities

Discharge exam;
pt expired
 
Pertinent Results:
ADMISSION LABS:

___ 10:40AM   WBC-36.4* RBC-3.66* HGB-12.4* HCT-36.4* 
MCV-100* MCH-33.9* MCHC-34.1 RDW-14.4 RDWSD-52.7*
___ 10:40AM   NEUTS-5* BANDS-0 LYMPHS-17* MONOS-3* EOS-0 
BASOS-0 ___ MYELOS-0 BLASTS-75* AbsNeut-1.82 
AbsLymp-6.19* AbsMono-1.09* AbsEos-0.00* AbsBaso-0.00*
___ 12:55PM   PLT COUNT-53*#
___ 10:40AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 04:16PM   ALBUMIN-4.1 CALCIUM-8.9 PHOSPHATE-4.9* 
MAGNESIUM-2.3 URIC ACID-6.0
___ 04:16PM   LIPASE-12
___ 04:16PM   ALT(SGPT)-55* AST(SGOT)-94* LD(LDH)-2161* ALK 
PHOS-78 TOT BILI-0.3
___ 04:16PM   GLUCOSE-165* UREA N-27* CREAT-1.4* 
SODIUM-130* POTASSIUM-4.2 CHLORIDE-93* TOTAL CO2-22 ANION GAP-19
___ 04:35PM   LACTATE-1.6
___ 08:00PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:30PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:30PM URINE  RBC-3* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-6

CTA CHEST ___. No evidence of pulmonary embolism or aortic dissection. 
2. Peribronchial nodular opacities within the upper lobe are 
similar compared 
to ___, likely infectious or inflammatory nature. 
3. New small bilateral pleural effusions with associated 
atelectasis. 
4. The esophagus and partially imaged stomach are extremely 
distended with 
fluid.  Esophagus is quite distended with fluid/debris from the 
stomach to the 
upper chest.  Query slow transit from the stomach. 
This also places patient at increased risk for aspiration. 

ECHO ___
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

XR ABD ___
Nonspecific bowel gas pattern.  No evidence of obstruction or 
ileus.

CXR ___
The endotracheal tube is not visualized.  The gastric tube 
extends into the 
stomach.  The tip of a right internal jugular central venous 
catheter projects 
over the mid SVC.  The tip of an incompletely evaluated PICC 
line projects 
over the upper right atrium. 
  
Re-demonstration of diffuse bilateral opacities, greater in both 
lower lung 
zones which likely reflect atelectasis and pleural effusions.  
Mild 
superimposed pulmonary edema is also present.  The size of the 
cardiac 
silhouette is unchanged. 
  
Persisting gaseous distention of the stomach. 

Derm path ___
Focal dyskeratosis involving epidermal basal layer and 
follicular epithelium, see note.
Note: The findings are subtle but are suggestive of early acute 
graft versus host disease. Initial and
level sections are examined.

Echo ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Views 
of the right ventricule are limited but it appears that the 
right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. There is at least mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

 IMPRESSION: Normal left ventricular global and regional 
systolic function. Mild mitral regurgication. At least mild 
pulmonary artery systolic hypertension. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of stage IIA 
breast cancer ___ left mastectomy and currently on 
Tamoxifen and relapse of AML post allogeneic RIC MRD (sister) 
stem cell transplant (Day 0: ___ for intermediate risk AML 
in CR1 after being in remission for ___ years. He was re-induced 
with MEC upon relapse (___) and rcd DLI from same 
donor (sister) on ___ after achieving remission 
subsequently found to have relapse post-DLI with 12% myeloblasts 
on ___ and now s/p 10 days decitabine (___) 
without response and increasing WBC/blasts who presented with 
hypoxia, dyspnea on exertion, and diffuse bone pain.

MICU COURSE:

# Goals of care: upon arrival to ICU, had long discussions w/ 
family and oncology about his prognosis and goals. Initially 
patient and family decided to proceed with leukopheresis, 
curative intent chemotherapy to transplant, and intubation with 
the understanding that cure and overall improvement could not be 
guaranteed. As his multiorgan failure progressed and felt his 
AML could not be cured given persistent blasts, renal failure, 
GVHD, and inability to get to transplant, the family decided to 
transition to CMO on ___ and he was terminally extubated with 
family at bedside. He was transferred to the floor where he 
passed away on ___.

# Acute Hypoxic Respiratory Failure
# Dyspnea on Exertion: found to be hypoxic at home to low ___ 
while at rest. Not symptomatic except more recently with 
exertion. Likely multiple factors contributing. Severe bone pain 
in chest/ribs likely limiting air movement and resulting in 
atelectasis. Also concern for leukostasis given progressively 
worsening WBC and blasts and so received pheresis upon arrival. 
CTA negative for PE but did note new small effusions and stable 
pulmonary opacities. Of note, recent work-up for URI symptoms 
revealed pulmonary opacities as above and positive B-glucan. 
Therefore, he was treated broadly for bacterial and fungal 
sources as well as PJP. Influenza PCR negative. He was intubated 
prior to initiating chemo given his respiratory status and 
anticipated worsening respiratory function with chemotherapy. In 
discussion with ID and oncology felt infectious cause was 
overall less likely but given severity of illness was covered 
with broad antibiotics and antifungals, which were adjusted with 
his renal failure (below) and transaminitis. Overall, his poor 
respiratory status was felt ___ leukemia/leukostasis, volume 
overload ___ renal failure. He also intermittently required 
pressors to maintain his blood pressures, felt perhaps related 
to his sedation but also covered for infections. He transitioned 
to CMO on ___ so abx were stopped and he was terminally 
extubated.

# Relapsed AML with neutropenia: relapse after being in 
remission for ___ years post allogeneic transplant. AML relapse 
was diagnosed on ___ with appearance of D835H mutation, 
normal cytogenetics and 97% donor T-cells on peripheral blood 
chimerism. Re-induced with MEC (___), s/p DLI from 
sister on ___ and now s/p 10 days of decitabine with 
increasing WBC/blasts. ___ protocol started ___ and 
completed his first cycle. He was monitored for tumor lysis and 
received rasburicase as needed. Also received allopurinol and 
hydroxyurea was stopped. GCSF was started given his neutropenia. 
Given his renal failure he was not a candidate to receive 
another transplant. His course was also complicated by GVHD 
which manifested as diffuse erythema and skin sloughing w/ 
positive nikolsky. Derm was consulted and skin biopsy showed 
GVHD. In discussion with onc and his poor prognosis from these 
findings, he was transitioned to CMO on ___.

# Acute Kidney Injury & TLS: likely prerenal ___ initially that 
resolved but then worsened while on pressors and after chemo 
started on ___. Also had contrast load earlier in 
hospitalization, several nephrotoxic meds and TLS despite 
management as above. Renal was consulted and initially he was 
trialed on Lasix gtt without good response. Because of his 
volume overload affecting his respiratory status and electrolyte 
derangements, he was started on CVVH. This was stopped on ___ as 
above.

#AF with RVR, STE, tropinemia: his course was also complicated 
by AF with RVR and STE with tropinemia. Cardiology was consulted 
and felt his ST elevations and elevated troponins were related 
to demand and global myocardial ischemia as opposed to focal 
infarcts. Given his overall poor health and instability, did not 
feel he was a candidate for catheterization or for systemic 
anticoagulation. His echo did not show any focal wall motion 
abnormalities and showed hyperdynamic LV function. He was rate 
controlled as tolerated.

# Thrombocytopenia/Anemia: secondary to AML. No evidence of 
active bleeding. Expect to drop with chemo. He was transfused as 
needed. He did have episodes of frank hemoptysis with clots 
suctioned from his ETT for which he was managed supportively.

# Diffuse Bone Pain
# Cancer-Related Pain: likely secondary to bone marrow 
involvement from progressive AML with rising blasts. Sedated w/ 
fentanyl and then transitioned to dilaudid gtt.

Greater than 30 minutes were spent on planning and execution of 
this discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO TID 
2. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
shortness of breath/wheezing 
3. Multivitamins 1 TAB PO DAILY 
4. Tamoxifen Citrate 20 mg PO QAM 
5. Vitamin D 1000 UNIT PO DAILY 
6. Voriconazole 150 mg PO Q12H 
7. Allopurinol ___ mg PO DAILY 
8. Lorazepam 0.5 mg PO Q6H:PRN anxiety/nausea/vomiting 
9. Hydroxyurea 1000 mg PO BID 
10. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
Pt expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Multiple myeloma
sepsis
acute kidney failure
 
Discharge Condition:
Expired
 
Discharge Instructions:
none
 
Followup Instructions:
___